US05098692
(3) (a) N3 -(2,6-dioxomorpholinoethyl)-N3 -(ethoxycarbonylmethyl)-3,6-diazaoctanedioic acid.
A suspension of 21.1 g (50 mmol) of N3,N6 -bis-(carboxymethyl)-N9 -(ethoxycarbonylmethyl)-3,6,9-triaza undecanedioic acid (J. Pharm. Sci. 68, 1979, 194) in 250 ml of acetic anhydride is stirred, after the addition of 50 ml of pyridine, for 3 days at room temperature. Then the precipitate is suctioned off, it is washed three times, each time with 50 ml of acetic anhydride and it is finally stirred up for several hours with absolute diethyl ether. After suctioning off, washing with absolute diethyl ether and drying in a vacuum at 40° C., 18.0 g (=89% of theory) of a white powder with a melting point of 195°-196° C. is obtained.

reactant | N3,N6 -bis-(carboxymethyl)-N9 -(ethoxycarbonylmethyl)-3,6,9-triaza undecanedioic acid | 50 mmol, 21.1 g | C(=O)(O)CN(CC(=O)O)CCN(CCN(CC(=O)O)CC(=O)OCC)CC(=O)O | C16H27N3O10
reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 250 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (2,6-dioxomorpholinoethyl)-N3 -(ethoxycarbonylmethyl)-3,6-diazaoctanedioic acid | O=C1OC(CN(C1)CCC(C(=O)O)N(CCNCC(=O)O)CC(=O)OCC)=O | C16H25N3O9
